US07091227B2
N6-Phenyl-2-[(ethylamino)Carbonyl]amino-1,3-benzothiazole-6-carboxamide
About 0.2 g of 2-[(ethylamino)Carbonyl]amino-1,3-benzothiazole-6-carboxylic acid was dissolved into about 20 mL dichloromethane and about 0.2 mL triethylamine. Added about 1 eq of the appropriate amine followed by about 0.3 g of 1-ethyl-3-(3-dimethylaminopropyl)Carbodiimide hydrochloride then stirred at room temperature for about 12–24 hours. The solvent was removed under reduced pressure then the crude reaction mixture was purified by preparative HPLC. 1H NMR 1.10 (t, 3H), 3.2 (m, 2H), 6.76 (br s, 11), 7.10 (m, 1H), 7.36 (m, 2H), 7.70 (d, 1H), 7.79 (d, 2H), 7.97 (m, 1H), 8.5 (s, 1H), 10.23 (s, 1H), 10.9 (br s, 1H); LC/MS 2.86 min, 341 (M+1);

reactant | 2-[(ethylamino)Carbonyl]amino-1,3-benzothiazole-6-carboxylic acid | 0.2 g | C(C)NC(=O)NC=1SC2=C(N1)C=CC(=C2)C(=O)O | C11H11N3O3S
reactant | dichloromethane | about 20 mL | ClCCl | CH2Cl2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)Carbodiimide hydrochloride | about 0.3 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | about 0.2 mL | C(C)N(CC)CC | C6H15N
product | N6-Phenyl-2-[(ethylamino)Carbonyl]amino-1,3-benzothiazole-6-carboxamide | C1(=CC=CC=C1)NC(=O)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C17H16N4O2S
